US06500863B1
N-(2-ethoxyethyl)-3-amino-6-chloro-2-hydroxybenzenesulfonamide
Following the general hydrogenation procedure outlined in example 15, crude N-(2-ethoxyethyl)-6-chloro-2-hydroxy-3-nitrobenzenesulfonamide (0.98 g) was reduced with hydrogen and Pd/C (250 mg). The crude product (1.01 g) was carried onto the next step without purification. 1H NMR (MeOD-d4): δ 6.88 (m, 2H), 3.40 (t, 2H), 3.36 (m, 2H), 3.13 (t, 2H), 1.08 (t, 3H).

reactant | N-(2-ethoxyethyl)-6-chloro-2-hydroxy-3-nitrobenzenesulfonamide | 0.98 g | C(C)OCCNS(=O)(=O)C1=C(C(=CC=C1Cl)[N+](=O)[O-])O | C10H13ClN2O6S
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | 250 mg | [Pd] | Pd
product | N-(2-ethoxyethyl)-3-amino-6-chloro-2-hydroxybenzenesulfonamide | C(C)OCCNS(=O)(=O)C1=C(C(=CC=C1Cl)N)O | C10H15ClN2O4S
